US06967254B2
In a 100 mL round bottom flask, was added 70 mg 4-(3,4-Dichloro-phenyl)-5-pyridin-4-yl-1-pyridin-3-ylmethyl-pyrazolidin-3-one and 10 mL THF, stirred at 0° C. under nitrogen. 0.26 mL 1 M LHMDS in THF was added drop wise. After stirred at 0° C. for 30 min. 0.017 mL iodomethane was added drop wise. The resulted mixture was stirred from 0° C. to rt for 2 hour, quenched with 20 mL sat. NH4Cl, extracted with dichloromethane 3×25 mL. The crude MS showed the desired 4-(3,4-Dichloro-phenyl)-2-methyl-5-pyridin-4-yl-1-pyridin-3-ylmethyl-pyrazolidin-3-one was there, MS (ES+): 413 (M+H)+. The organic phase was dried over anhydrous Na2SO4. After purification by flash chromatography, the 4-(3,4-Dichloro-phenyl)-5-pyridin-4-yl-1-pyridin-3-ylmethyl-pyrazolidin-3-one was oxidized on column and obtained the 4-(3,4-Dichloro-phenyl)-2-methyl-5-pyridin-4-yl-1-pyridin-3-ylmethyl-1,2-dihydro-pyrazol-3-one 12 mg as light yellow solid. MS (ES+): 411 (M+H)+.

reactant | 4-(3,4-Dichloro-phenyl)-5-pyridin-4-yl-1-pyridin-3-ylmethyl-pyrazolidin-3-one | 70 mg | ClC=1C=C(C=CC1Cl)C1C(NN(C1C1=CC=NC=C1)CC=1C=NC=CC1)=O | C20H16Cl2N4O
reactant | LHMDS | 1 M, 0.26 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | iodomethane | 0.017 mL | IC | CH3I
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(3,4-Dichloro-phenyl)-2-methyl-5-pyridin-4-yl-1-pyridin-3-ylmethyl-1,2-dihydro-pyrazol-3-one | 12 mg | ClC=1C=C(C=CC1Cl)C=1C(N(N(C1C1=CC=NC=C1)CC=1C=NC=CC1)C)=O | C21H16Cl2N4O
